US03975375
C) N-phenylaminocarbonyl-imidazolid-2-one ##SPC38##
10.2 parts by weight of aniline were first introduced into 120 parts by volume of 80% strength aqueous tetrahydrofurane at pH = 8 and 14.9 parts by weight of N-chlorocarbonyl-imidazolid-2-one were added in portions at room temperature while stirring and keeping the pH value at 7-8 by simultaneous addition of triethylamine. The mixture was further stirred until the pH was constant, 80 parts by volume of water were added, the tetrahydrofurane was stripped off in vacuo, the pH was adjusted to 2.5 and after standing for one hour in an ice bath the product which had precipitated was filtered off. It was washed with ice water and dried over P2O5 in a vacuum desiccator.

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | N-chlorocarbonyl-imidazolid-2-one | ClC(=O)N1C(NCC1)=O | C4H5ClN2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-phenylaminocarbonyl-imidazolid-2-one | C1(=CC=CC=C1)NC(=O)N1C(NCC1)=O | C10H11N3O2
